US09034850B2
Step A. (R)-tert-butyl-(2-(3-(2-fluoro-6-(trifluoromethyl)benzyl)-4-methyl-2,6-dioxo-5-(4-(4,4,5,5,5-pentafluoropentyl)-piperazin-1-yl)-2,3-dihydropyrimidin-1(6H)-yl)-1-phenylethyl)carbamate
To a solution of 100 μl (0.416 mmol) of 4,4,5,5,5-pentafluoropentan-1-ol in 2 mL of dichloromethane were added 69 μl (1.2 eq) of triethylamine and 36 μl (1.1 eq) of methanesulfonyl chloride in the order, followed by stirring at room temperature for 30 min. The solution was washed with an aqueous saturated sodium bicarbonate solution, dried over sodium sulfate, filtrated and concentrated to produce a colorless oil. 60 μl of the oil, 30 mg of (R)-tert-butyl (2-(3-(2-fluoro-6-(trifluoromethyl)benzyl)-4-methyl-2,6-dioxo-5-(piperazin-1-yl)-2,3-dihydropyrimidin-1(6H)-yl)-1-phenylethyl)carbamate (0.049 mmol), and 21 mg (0.149 mmol) of potassium carbonate were dissolved at 80° C. for 7 hrs in 2 mL of acetonitrile, with stirring. The solution was concentrated, diluted with dichloromethane, and washed with an aqueous saturated sodium bicarbonate solution. After concentration of the organic layer thus formed, the residue was purified by prep-TLC (eluent: hexane/ethyl acetate, 1/1) and dried in a vacuum to afford 8 mg of the compound as a colorless oil (yield 21%). 1H NMR (300 MHz, CDCl3) δ 1.36 (9H, s), 1.77 (2H, m), 2.14 (4H, m), 2.36 (3H, s), 2.42 (2H, m), 2.53 (2H, m), 2.75 (2H, m), 3.61 (2H, m), 4.05 (1H, m), 4.28 (1H, m), 5.01 (1H, m), 5.33 (1H, m), 5.51 (1H, m), 5.82 (1H, d), 7.19-7.44 (7H, m), 7.55 (1H, m)

reactant | 4,4,5,5,5-pentafluoropentan-1-ol | 0.416 mmol, 100 μl | FC(CCCO)(C(F)(F)F)F | C5H7F5O
reactant | triethylamine | 69 μl, 1.2 eq | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 36 μl, 1.1 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | (R)-tert-butyl (2-(3-(2-fluoro-6-(trifluoromethyl)benzyl)-4-methyl-2,6-dioxo-5-(piperazin-1-yl)-2,3-dihydropyrimidin-1(6H)-yl)-1-phenylethyl)carbamate | 0.049 mmol, 30 mg | FC1=C(CN2C(N(C(C(=C2C)N2CCNCC2)=O)C[C@@H](C2=CC=CC=C2)NC(OC(C)(C)C)=O)=O)C(=CC=C1)C(F)(F)F | C30H35F4N5O4
reactant | potassium carbonate | 0.149 mmol, 21 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (R)-tert-butyl-(2-(3-(2-fluoro-6-(trifluoromethyl)benzyl)-4-methyl-2,6-dioxo-5-(4-(4,4,5,5,5-pentafluoropentyl)-piperazin-1-yl)-2,3-dihydropyrimidin-1(6H)-yl)-1-phenylethyl)carbamate | 8 mg, yield 21% | C(C)(C)(C)OC(N[C@@H](CN1C(N(C(=C(C1=O)N1CCN(CC1)CCCC(C(F)(F)F)(F)F)C)CC1=C(C=CC=C1C(F)(F)F)F)=O)C1=CC=CC=C1)=O | C35H40F9N5O4
